US07030116B2
(R)-2-(1-Benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid
To a solution of (R)-2-(1-Benzyl-cyclopropylmethyl)-succinic acid 1-methyl ester (2.453 g, 8.88 mmol), di-isopropyl amine (1.1 eq, 9.76 mmol, 1.26 g) and morpholine (1.5 eq., 13.3 mmol, 1.16 g) in dry dichloromethane under N2 was added PyBOP (1.1 eq., 9.76 mmol, 5.08 g). The mixture was stirred at room temperature for 5 hr, and concentrated in vacuum. The residue was dissolved in ethyl acetate (150 mL) and washed with water (100 mL), NH4Cl (100 mL), NaHCO3 (2×100 mL), then water (100 mL). The organic layer was dried (MgSO4) and concentrated in vacuum. The residue was purified over 120 g silica gel, eluted with ethyl acetate:heptane (1:1.5, 1:1, to 2:1) to afford the desired compound contaminated with PyBOP residues. A solution of the mixture in ether containing ethyl acetate (250 mL total) was washed with dilute HCl (150 mL), water (150 mL) dilute NaOH (150 mL) then water (150 mL). The organic layer was dried (MgSO4) and concentrated in vacuum to afford (R)-2-(1-Benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid methyl ester as a white solid (2.292 g, 74.7% yield).

reactant | (R)-2-(1-Benzyl-cyclopropylmethyl)-succinic acid 1-methyl ester | 8.88 mmol, 2.453 g | COC([C@@H](CC(=O)O)CC1(CC1)CC1=CC=CC=C1)=O | C16H20O4
reactant | di-isopropyl amine | 9.76 mmol, 1.26 g, 1.1 eq | C(C)(C)NC(C)C | C6H15N
reactant | morpholine | 13.3 mmol, 1.16 g, 1.5 eq. | N1CCOCC1 | C4H9NO
reactant | PyBOP | 9.76 mmol, 5.08 g, 1.1 eq. | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-2-(1-Benzyl-cyclopropylmethyl)-4-morpholin-4-yl-4-oxo-butyric acid | C(C1=CC=CC=C1)C1(CC1)C[C@@H](C(=O)O)CC(=O)N1CCOCC1 | C19H25NO4
